US08633200B2
To a stirred solution of methyl 2-(2-(3-chlorophenyl)-7-isobutyl-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)-2-oxoacetate (0.077 g, 0.170 mmol) in toluene (3 mL) was added 1M (R)-1-methyl-3,3-diphenylhexahydropyrrolo[1,2-c][1,3,2]oxazaborole/toluene (0.034 ml, 0.034 mmol) at rt and cooled to −35° C. To this was added dropwise 1M catecholborane/THF (0.237 ml, 0.237 mmol) over 10 min. After stirring 30 min, the reaction mixture was slowly warm to −15° C. over 30 min and diluted with EtOAc (15 mL). Then, the mixture was vigorously stirred with sat Na2CO3 (2 mL) for 45 min. The aqueous layer separated and organic layer washed with sat sat Na2CO3 (2×5 mL), dried (Na2SO4), filtered, concentrated and the resulting yellow residue purified by prep-HPLC to afford (S)-methyl 2-(2-(3-chlorophenyl)-7-isobutyl-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)-2-hydroxyacetate (0.0592 g, 0.153 mmol, 90% yield) as white solid. 1H NMR (500 MHz, CDCl3) δ: 7.98 (t, J=1.7 Hz, 1H), 7.85 (dt, J=7.3, 1.5 Hz, 1H), 7.40-7.32 (m, 2H), 6.80 (s, 1H), 5.52 (s, 1H), 3.81 (s, 3H), 3.66 (br. s., 1H), 3.34-3.23 (m, 2H), 2.51 (s, 3H), 2.43 (dt, J=13.6, 6.9 Hz, 1H), 1.05 (d, J=6.7 Hz, 6H). LCMS (M+H) calcd for C20H23ClN3O3: 388.14. found: 388.3.

reactant | methyl 2-(2-(3-chlorophenyl)-7-isobutyl-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)-2-oxoacetate | 0.170 mmol, 0.077 g | ClC=1C=C(C=CC1)C1=NN2C(N=C(C(=C2CC(C)C)C(C(=O)OC)=O)C)=C1 | C20H20ClN3O3
reactant | (R)-1-methyl-3,3-diphenylhexahydropyrrolo[1,2-c][1,3,2]oxazaborole toluene | 0.034 mmol, 1M, 0.034 ml | CB1OC([C@@H]2N1CCC2)(C2=CC=CC=C2)C2=CC=CC=C2.C1(=CC=CC=C1)C
reactant | catecholborane THF | 0.237 mmol, 1M, 0.237 ml | [B]1OC2=CC=CC=C2O1.C1CCOC1
reactant | Na2CO3 | 2 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | 15 mL | CCOC(=O)C | C4H8O2
product | (S)-methyl 2-(2-(3-chlorophenyl)-7-isobutyl-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)-2-hydroxyacetate | 0.153 mmol, 0.0592 g, 90% yield | ClC=1C=C(C=CC1)C1=NN2C(N=C(C(=C2CC(C)C)[C@@H](C(=O)OC)O)C)=C1 | C20H22ClN3O3
